US06440995B1
4-Chloro-7-methoxy-2-p-tolyl-quinoline
The title compound, m. p. 129-131° C., MS: m/e=283 (M+), was prepared from 4-chloro-7-methoxy-quinoline and 4-bromotoluene.

reactant | 4-chloro-7-methoxy-quinoline | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 4-bromotoluene | BrC1=CC=C(C=C1)C | C7H7Br
product | 4-Chloro-7-methoxy-2-p-tolyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)C | C17H14ClNO
